US04382892
5.8 g of 2,3-difluoro-6-nitrophenol, 5.0 g of monochloroacetone, 8.0 g of potassium carbonate and 0.8 g of potassium iodide were added to 100 ml of acetone and the mixture was refluxed for 4 hours. After the removal of insoluble material by filtration, the solvent was evaporated and the residue was distributed between chloroform and water. The chloroform layer was washed with water and was dried, then the solvent was evaporated. The residue was treated with n-hexane to provide 5.0 g of 2-acetonyloxy-3,4-difluoronitrobenzene as light yellow crystals with m.p. 61° C.

reactant | 2,3-difluoro-6-nitrophenol | 5.8 g | FC1=C(C(=CC=C1F)[N+](=O)[O-])O | C6H3F2NO3
reactant | monochloroacetone | 5.0 g | ClCC(C)=O | C3H5ClO
reactant | potassium carbonate | 8.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.8 g | [I-].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2-acetonyloxy-3,4-difluoronitrobenzene | 5.0 g | C(C(=O)C)OC1=C(C=CC(=C1F)F)[N+](=O)[O-] | C9H7F2NO4
